US07820705B2
(4-{4-[2-(2,4-Dichloro-phenoxy)-ethyl-carbamoyl]-5-phenyl-isoxazol-3-yl}-2-methyl-phenoxy)-acetic acid
The crude (4-{4-[2-(2,4-dichloro-phenoxy)-ethyl-carbamoyl]-5-phenyl-isoxazol-3-yl}-2-methyl-phenoxy)-acetic acid methyl ester is dissolved in DME (1 mL). A solution of 1 M LiOH in H2O (0.2 mL) and is added and the mixture is stirred overnight at room temperature. The mixture is concentrated, then acidified with 1 M HCl, extracted with EtOAc (10 mL), dried over MgSO4, filtered, concentrated and purified on reverse phase HPLC (H2O/MeCN gradient) to afford the title compound I30 as a white solid: 1H-NMR (400 MHz, CD3CN) δ=7.56 (d, J=1.6, 1H), 7.49 (dd, J=8.4, 2.4 Hz, 1H), 7.45 (m, 5H), 7.39 (d, J=2.4 Hz, 1H), 7.27 (dd, J=8.8, 2.8 Hz, 1H), 7.20 (t, J=5.6 Hz, NH), 6.96 (d, J=8.8 Hz, 1H), 6.73 (d, J=8.8 Hz, 1H), 4.64 (s, 2H), 4.08 (t, J=5.2 Hz, 2H), 3.70 (q, J=5.3 Hz, 2H), 2.23 (s, 3H). MS calculated for C27H23Cl2N2O6 (M+H+) 541.0, found 541.0.

reactant | (4-{4-[2-(2,4-dichloro-phenoxy)-ethyl-carbamoyl]-5-phenyl-isoxazol-3-yl}-2-methyl-phenoxy)-acetic acid methyl ester | COC(COC1=C(C=C(C=C1)C1=NOC(=C1C(NCCOC1=C(C=C(C=C1)Cl)Cl)=O)C1=CC=CC=C1)C)=O | C28H24Cl2N2O6
reactant | LiOH | 1 M | [Li+].[OH-]
solvent | DME | 1 mL | COCCOC | C4H10O2
solvent | H2O | 0.2 mL | O | H2O
product | (4-{4-[2-(2,4-Dichloro-phenoxy)-ethyl-carbamoyl]-5-phenyl-isoxazol-3-yl}-2-methyl-phenoxy)-acetic acid | ClC1=C(OCCNC(=O)C=2C(=NOC2C2=CC=CC=C2)C2=CC(=C(OCC(=O)O)C=C2)C)C=CC(=C1)Cl | C27H22Cl2N2O6
